US04933333
A solution of 1.89 g of methanesulfonyl chloride in 10 ml of dried tetrahydrofuran was added dropwise to a suspension of 2.32 g of trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-prolineamide and 1.67 g of triethylamine in 40 ml of dried tetrahydrofuran at room temperature. After stirring for 1 hour, the reaction mixture was concentrated under reduced pressure, and to the residue were added 30 ml of water and 30 ml of diethyl ether. After cooling, the resulting white crystals were separated by filtration, washed successively with cool water and cool diethyl ether and dried under reduced pressure to obtain trans-1-(p-nitrobenzyloxycarbonyl)-4-methanesulfonyloxy-L-prolineamide.

reactant | methanesulfonyl chloride | 1.89 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-prolineamide | 2.32 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)N)C[C@H](C2)O)C=C1 | C13H15N3O6
reactant | triethylamine | 1.67 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | trans-1-(p-nitrobenzyloxycarbonyl)-4-methanesulfonyloxy-L-prolineamide | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)N)C[C@H](C2)OS(=O)(=O)C)C=C1 | C14H17N3O8S
